US08440666B2
1-(Pyridin-4-yl)ethanol
4-Pyridinecarbaldehyde (1.00 ml, 10.5 mmol) in tetrahydrofuran (10 mL) was mixed with methylmagnesium bromide (0.97 M in tetrahydrofuran, 19.5 mL, 18.9 mmol) under cooling with ice and stirred at room temperature for 5 hours. After quenching by adding water under cooling with ice, the reaction solution was mixed with ethyl acetate, and the organic layer was washed with saturated aqueous ammonium chloride, dried over anhydrous sodium sulfate and evaporated under reduced pressure to give the desired product (283 mg, 22% yield).

reactant | 4-Pyridinecarbaldehyde | 10.5 mmol, 1.00 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | methylmagnesium bromide | 18.9 mmol, 0.97 M, 19.5 mL | C[Mg]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-(Pyridin-4-yl)ethanol | 283 mg, 22% yield | N1=CC=C(C=C1)C(C)O | C7H9NO
